US04496572
A solution of 2-methylbenzofuran-5-carbonitrile (J. Het. Chem., 4, 441, 1967) (1.52 g) and sulphuryl chloride (1.49 g) in chloroform (25 ml) was heated under reflux for 9 hours and then cooled. The solution was washed successively with water, dilute sodium hydroxide solution, water and then dried (Na2SO4). Evaporation of the solvent gave a solid which was crystallised twice from methanol to give 3-chloro-2-methylbenzofuran-5-carbonitrile (0.45 g), m.p. 131.5°-133.5°.

reactant | 2-methylbenzofuran-5-carbonitrile | 1.52 g | CC=1OC2=C(C1)C=C(C=C2)C#N | C10H7NO
reactant | sulphuryl chloride | 1.49 g | S(=O)(=O)(Cl)Cl | Cl2O2S
solvent | chloroform | 25 ml | C(Cl)(Cl)Cl | CHCl3
product | 3-chloro-2-methylbenzofuran-5-carbonitrile | 0.45 g | ClC1=C(OC2=C1C=C(C=C2)C#N)C | C10H6ClNO
